US06734180B1
Using 5-benzoyloxy-2-(tert-butoxycarbonylamino)indan (130 mg, 0.37 mmol), 4N hydrochloric acid-dioxane (2 ml) and acetic acid (6 ml), a similar procedure to Example 24 was carried out to obtain 5-benzoyloxy-2-aminoindan hydrochloride (67 mg, 0.35 mmol) having the following physical properties:

reactant | 5-benzoyloxy-2-(tert-butoxycarbonylamino)indan | 0.37 mmol, 130 mg | C(C1=CC=CC=C1)(=O)OC=1C=C2CC(CC2=CC1)NC(=O)OC(C)(C)C | C21H23NO4
reactant | hydrochloric acid dioxane | 4N, 2 ml | Cl.O1CCOCC1
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 5-benzoyloxy-2-aminoindan hydrochloride | 0.35 mmol, 67 mg | Cl.C(C1=CC=CC=C1)(=O)OC=1C=C2CC(CC2=CC1)N | InChI=1S/C16H15NO2.ClH/c17-14-8-12-6-7-15(10-13(12)9-14)19-16(18)11-4-2-1-3-5-11;/h1-7,10,14H,8-9,17H2;1H
